US09340538B2
Step B: (S)-2-(morpholine-3-carboxamido)ethyl acetate hydrochloride
To a solution of (S)-tert-butyl 3-((2-hydroxyethyl)carbamoyl)morpholine-4-carboxylate (0.33 g, 1.2 mmol) in glacial acetic acid (0.5 mL) was added a solution of HCl in EtOAc (6 mol/L, 15 mL), then the mixture was stirred closedly at 25° C. for 12 hours. The mixture was concentrated in vacuo to give the title compound as glutinous semisolid (0.21 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | (S)-tert-butyl 3-((2-hydroxyethyl)carbamoyl)morpholine-4-carboxylate | 1.2 mmol, 0.33 g | OCCNC(=O)[C@H]1N(CCOC1)C(=O)OC(C)(C)C | C12H22N2O5
reactant | HCl | Cl | ClH
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 6 mol/L, 15 mL | CCOC(=O)C | C4H8O2
product | (S)-2-(morpholine-3-carboxamido)ethyl acetate hydrochloride | 0.21 g, 70% | Cl.C(C)(=O)OCCNC(=O)[C@H]1NCCOC1 | InChI=1S/C9H16N2O4.ClH/c1-7(12)15-5-3-11-9(13)8-6-14-4-2-10-8;/h8,10H,2-6H2,1H3,(H,11,13);1H/t8-;/m0./s1
